US07488740B2
10. 7-[3-(Trifluoromethyl)pyridin-2-yl]quinolin-4-ol
Heat a solution of 4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline (100 mg), in 33% hydrogen bromide in acetic acid (5 mL) at 100° C. for 18 hours. Evaporate to dryness to give the hydrobromide salt of the title compound.

reactant | 4-methoxy-7-[3-(trifluoromethyl)pyridin-2-yl]quinoline | 100 mg | COC1=CC=NC2=CC(=CC=C12)C1=NC=CC=C1C(F)(F)F | C16H11F3N2O
solvent | hydrogen bromide | Br | BrH
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 7-[3-(Trifluoromethyl)pyridin-2-yl]quinolin-4-ol | FC(C=1C(=NC=CC1)C1=CC=C2C(=CC=NC2=C1)O)(F)F | C15H9F3N2O
